US08080563B2
p-Toluenesulfonic acid (172 mg, 1.0 mmol) was added to a solution of 8-(cyclopentyloxy)-4-(3,5-dichloropyridin-4-ylamino)-7-methoxy-1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)quinolin-2(1H)-one (2.4 g, 4.4 mmol) and methanol (100 mL). After stirring overnight, the reaction was concentrated, diluted with dichloromethane (100 mL), and then washed with sat'd NaHCO3 (20 mL) followed by water (20 mL). The organic layer was dried, filtered, concentrated, and recrystallized from dichloromethane/petroleum ether (1:2) to give 8-(cyclopentyloxy)-4-(3,5-dichloropyridin-4-ylamino)-1-(2-hydroxyethyl)-7-methoxyquinolin-2(1H)-one: 1H NMR (400 MHz, DMSO-d6): δ 8.74 (s, 2H), 8.73 (s, 1H), 7.91 (d, 1H), 7.11 (d, 1H), 4.92 (s, 1H), 4.65 (t, 2H), 4.59 (m, 1H), 4.50 (t, 1H), 3.90 (s, 3H), 3.32 (m 2H), 1.80-1.48 (m, 8H); MS (ESI): 463.9.

reactant | p-Toluenesulfonic acid | 1.0 mmol, 172 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 8-(cyclopentyloxy)-4-(3,5-dichloropyridin-4-ylamino)-7-methoxy-1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)quinolin-2(1H)-one | 4.4 mmol, 2.4 g | C1(CCCC1)OC=1C(=CC=C2C(=CC(N(C12)CCOC1OCCCC1)=O)NC1=C(C=NC=C1Cl)Cl)OC | C27H31Cl2N3O5
solvent | methanol | 100 mL | CO | CH4O
product | 8-(cyclopentyloxy)-4-(3,5-dichloropyridin-4-ylamino)-1-(2-hydroxyethyl)-7-methoxyquinolin-2(1H)-one | C1(CCCC1)OC=1C(=CC=C2C(=CC(N(C12)CCO)=O)NC1=C(C=NC=C1Cl)Cl)OC | C22H23Cl2N3O4
